US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-cyclobutylmethyl-2-hydroxy-ethyl)-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and 2-amino-3-cyclobutyl-propan-1-ol (38.7 mg, 0.3 mmol) as starting materials and isolated (30 mg, 41%) as white solid; LC-MS (UV peak area, ESI) 99.69%, 346.2 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-3-cyclobutyl-propan-1-ol | 0.3 mmol, 38.7 mg | NC(CO)CC1CCC1 | C7H15NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-cyclobutylmethyl-2-hydroxy-ethyl)-amide | C1(CCC1)CC(CO)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H27N3O3
